US08754226B2
5-Chloro-2,3-difluoropyridine (0.20 g, 1.3 mmol) was added to a mixture of (S)-methyl 5-(2-oxo-1-(piperidin-4-yl)pyrrolidin-3-yloxy)picolinate hydrochloride (0.17 g, 0.44 mmol) and DIEA (0.38 mL, 2.2 mmol) in DMF (1.5 mL). The mixture was stirred at 100° C. overnight and then cooled to ambient temperature. The mixture was partitioned between saturated aqueous NH4Cl (20 mL) and EtOAc (50 mL). The organic phase was washed successively with water (20 mL), water (20 mL) and then brine (20 mL). The combined organic phases were dried over MgSO4, filtered and concentrated. The residue was purified on silica (eluting with EtOAc) to afford (S)-methyl 5-(1-(1-(5-chloro-3-fluoropyridin-2-yl)piperidin-4-yl)-2-oxopyrrolidin-3-yloxy)picolinate (0.17 g, 0.38 mmol, 86%).

reactant | 5-Chloro-2,3-difluoropyridine | 1.3 mmol, 0.20 g | ClC=1C=C(C(=NC1)F)F | C5H2ClF2N
reactant | (S)-methyl 5-(2-oxo-1-(piperidin-4-yl)pyrrolidin-3-yloxy)picolinate hydrochloride | 0.44 mmol, 0.17 g | Cl.O=C1N(CC[C@@H]1OC=1C=CC(=NC1)C(=O)OC)C1CCNCC1
reactant | DIEA | 2.2 mmol, 0.38 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | DMF | 1.5 mL | CN(C)C=O | C3H7NO
product | (S)-methyl 5-(1-(1-(5-chloro-3-fluoropyridin-2-yl)piperidin-4-yl)-2-oxopyrrolidin-3-yloxy)picolinate | 0.38 mmol, 0.17 g, 86% | ClC=1C=C(C(=NC1)N1CCC(CC1)N1C([C@H](CC1)OC=1C=CC(=NC1)C(=O)OC)=O)F | C21H22ClFN4O4
